US08557843B2
A 20 mL microwave vial was charged with 2-[(4-bromo-phenylamino)methylene]malonic acid diethyl ester (1.711 g, 5.0 mmol) and POCl3 (phosphoryl chloride, 10.0 mL, 16.8 g, 109 mmol). The vial was capped and the mixture was microwave heated stepwise up to 180° C. (watching the pressure) over 5 min and then kept at 180° C. for 30 min Excess POCl3 was evaporated and the residue partitioned between CH2Cl2 (40 mL) and 2 N NaOH (aq) (40 mL). The aqueous layer was extracted with CH2Cl2 (2×40 mL). The organic layers were combined, dried with Na2CO3 and evaporated. The residue was purified on column (silica gel, CH2Cl2 as eluent). Pure fractions were pooled, evaporated and the residue dried under vacuum to give 0.821 g (52%) of 6-bromo-4-chloroquinoline-3-carboxylic acid ethyl ester. MS (ESI+) m/z 314, 316 (MH+).

reactant | 2-[(4-bromo-phenylamino)methylene]malonic acid diethyl ester | 5.0 mmol, 1.711 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=C(C=C1)Br)=O | C14H16BrNO4
reactant | POCl3 | 109 mmol, 10.0 mL, 16.8 g | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-bromo-4-chloroquinoline-3-carboxylic acid ethyl ester | 0.821 g, 52% | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1Cl)Br | C12H9BrClNO2
